US05932571
Synthesis of 4-(1-(2-cyanomethyloxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 1-(t-butoxycarbonyl)-4-(1-(2-cyanomethyloxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.36 g, 0.91 mmol), dichloromethane (15 mL), and methanol (5 mL). Cool in an ice bath and add hydriodic acid (0.25 mL, 57%, 1.86 mmol). Warm to ambient temperature. After 5 hours, concentrate the reaction mixture in vacuo to give a residue. Combine the residue and diethyl ether (40 mL) and stir. After 18 hours, decant the solvent, add diethyl ether, and stir to give a solid. Collect the solid by filtration and dry to give the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-cyanomethyloxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 0.91 mmol, 0.36 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOCC#N)C=CC=C2 | C21H29N5O3
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
reactant | methanol | 5 mL | CO | CH4O
reactant | hydriodic acid | 1.86 mmol, 0.25 mL | I | HI
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 4-(1-(2-cyanomethyloxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.C(#N)COCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C16H21N5O.HI/c17-6-12-22-13-11-21-15-5-2-1-4-14(15)19-16(21)20-9-3-7-18-8-10-20;/h1-2,4-5,18H,3,7-13H2;1H
